US07045519B2
2. Preparation of 2-(2-aminoethylamino)-5-nitropyridine.
The preparation of the material 6-[(2-aminoethyl)amino]pyridine with various substitutents on the pyridine can be found in the precedures for the preparation of [4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]{2-[(5-nitro(2-pyridyl))amino]ethyl}amine, Example 74, and its analogues.

reactant | 6-[(2-aminoethyl)amino]pyridine | NCCNC1=CC=CC=N1 | C7H11N3
reactant | [4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]{2-[(5-nitro(2-pyridyl))amino]ethyl}amine | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=CN1)NCCNC1=NC=C(C=C1)[N+](=O)[O-] | C20H16Cl2N8O2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-(2-aminoethylamino)-5-nitropyridine | NCCNC1=NC=C(C=C1)[N+](=O)[O-] | C7H10N4O2
